US09278972B2
Preparation of (1S,2S,3R,5S)-3-(7-chloro-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (CLTOL)
To a stirring solution of (1S,2S,3R,5S)-3-((5-amino-6-chloro-2-(propylthio)pyrimidin-4-yl)amino)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (OLACINA; 0.38 g, 1 mmol) in ethyl acetate (7 mL) was added isopentyl nitrite (0.16 mL, 1.2 mmol). The reaction mixture was stirred for 1 h at 65° C. and then evaporated under reduced pressure to give a reddish powder which was recrystallized from a mixture of methyl tert-butyl ether/n-hexane to give CLTOL as a crystalline product (0.31 g, 80% yield): 99 area % by HPLC.

reactant | (1S,2S,3R,5S)-3-((5-amino-6-chloro-2-(propylthio)pyrimidin-4-yl)amino)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 1 mmol, 0.38 g | NC=1C(=NC(=NC1Cl)SCCC)N[C@H]1[C@@H]([C@@H]([C@H](C1)OCCO)O)O | C14H23ClN4O4S
reactant | isopentyl nitrite | 1.2 mmol, 0.16 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
product | (1S,2S,3R,5S)-3-(7-chloro-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 0.31 g, 80% yield | ClC=1C2=C(N=C(N1)SCCC)N(N=N2)[C@H]2[C@@H]([C@@H]([C@H](C2)OCCO)O)O | C14H20ClN5O4S
